US04897490
Methyl N-[9,9-bis(4-fluorophenyl)-3(R),5(S)-dihydroxy-8-(1-methyl-1H-tetrazol-5-yl)-1oxo-6,8-nonadien-1-yl]-L-leucinate
When a solution of trans-(4R,6S)-6-[4,4-bis(4-fluorophenyl)-3-(1-methyl-1H-tetrazol-5-yl)-1,3-butadienyl]-tetrahydro-4-hydroxy-2H-pyran-2-one in tetrahydrofuran is treated with at least one equivalent of L-leucine methyl ester (prepared in situ from the hydrochloride salt) and heated to reflux temperature, the title compound is thereby produced.

reactant | trans-(4R,6S)-6-[4,4-bis(4-fluorophenyl)-3-(1-methyl-1H-tetrazol-5-yl)-1,3-butadienyl]-tetrahydro-4-hydroxy-2H-pyran-2-one | FC1=CC=C(C=C1)C(=C(/C=C/[C@@H]1C[C@H](CC(O1)=O)O)C1=NN=NN1C)C1=CC=C(C=C1)F | C23H20F2N4O3
reactant | L-leucine methyl ester | at least one equivalent | COC([C@@H](N)CC(C)C)=O | C7H15NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl N-[9,9-bis(4-fluorophenyl)-3(R),5(S)-dihydroxy-8-(1-methyl-1H-tetrazol-5-yl)-1oxo-6,8-nonadien-1-yl]-L-leucinate | FC1=CC=C(C=C1)C(=C(C=C[C@H](C[C@H](CC(=O)N[C@@H](CC(C)C)C(=O)OC)O)O)C1=NN=NN1C)C1=CC=C(C=C1)F | C30H35F2N5O5
